US07465815B2
2-(4-Isopropylbenzyl)-1-methoxy-3,5-dimethylbenzene
To a mixed solution of sodium hydride (a 60% liquid paraffin dispersion, 757 mg, 18.9 mmol) in DMF (50 mL) was added dropwise 2-(4-isopropylbenzyl)-3,5-dimethylphenol obtained in Reference Example 148 (4.01 g, 15.8 mmol) in DMF (15 mL) under argon atmosphere at 0° C., and the mixture was stirred for 30 minutes. To the reaction solution was added dropwise a solution of methyl iodide (2.69 mL, 18.9 mmol) in DMF (8 mL) at the same temperature, and the mixture was stirred for 30 minutes. The reaction solution was warmed to room temperature, water was added thereto, which was extracted with ethyl acetate. The organic layer was washed with water, dried over anhydrous sodium sulfate, filtered, and then concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane:ethyl acetate=8:1) to obtain 3.49 g (yield 82%) of the title compound. Oily matter.

reactant | sodium hydride | [H-].[Na+]
reactant | 2-(4-isopropylbenzyl)-3,5-dimethylphenol | C(C)(C)C1=CC=C(CC2=C(C=C(C=C2C)C)O)C=C1 | C18H22O
reactant | methyl iodide | 18.9 mmol, 2.69 mL | CI | CH3I
reactant | water | O | H2O
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | 2-(4-Isopropylbenzyl)-1-methoxy-3,5-dimethylbenzene | 3.49 g, yield 82% | C(C)(C)C1=CC=C(CC2=C(C=C(C=C2C)C)OC)C=C1 | C19H24O
